US05596097
Anhydrous cupric chloride (8 mg) is added to a mixture of 4-methoxybenzyl alcohol (2.76 g) and 1,3-diisopropylcarbodiimide (3.13 mL) under a nitrogen atmosphere. The reaction is quite exothermic and it is cooled with an ice bath for 1 h. The mixture is then heated for 3.5 h at 60° C. The product was purified by distillation to give O-p-methoxybenzyl-N,N'-diisopropylisourea (4 g).

reactant | 4-methoxybenzyl alcohol | 2.76 g | COC1=CC=C(CO)C=C1 | C8H10O2
reactant | 1,3-diisopropylcarbodiimide | 3.13 mL | C(C)(C)N=C=NC(C)C | C7H14N2
product | O-p-methoxybenzyl-N,N'-diisopropylisourea | 4 g | COC1=CC=C(COC(NC(C)C)=NC(C)C)C=C1 | C15H24N2O2
